* SPICE3 file created from CMOS_Inverter_Try.ext - technology: sky130A

X0 Output_Vout Vin_Gate_Location2 Voltage_VCC Voltage_VCC sky130_fd_pr__pfet_01v8 ad=0.8383 pd=3.68 as=0.8686 ps=3.74 w=1.01 l=0.57
X1 Output_Vout Vin_Gate_Location2 Voltage_GND Voltage_GND sky130_fd_pr__nfet_01v8 ad=0.8383 pd=3.68 as=0.8686 ps=3.74 w=1.01 l=0.57
